US04171367
2[1-(3-Methylbutyl)-3-methyl-5-pyrazolyl]amino-2-imidazoline
N[1-(3-methylbutyl)-3-methyl-5-pyrazolyl]-S-methyl isothiourea hydroiodide (29.0 g.) was suspended in 160 ml. n-propyl alcohol. Ethylene diamine (10.2 g.) was added and the solution was refluxed 18 hrs. The solvent was concentrated in vacuum and the residue was treated with KHCO3 in water. The resulting solid was recrystallized from CHCl3 -ether mixtures to obtain 14.3 g. product, mp 104°-106° C.

reactant | N[1-(3-methylbutyl)-3-methyl-5-pyrazolyl]-S-methyl isothiourea hydroiodide | 29.0 g | I.CC(CCN1N=C(C=C1NC(SC)=N)C)C
reactant | Ethylene diamine | 10.2 g | C(CN)N | C2H8N2
solvent | n-propyl alcohol | C(CC)O | C3H8O
product | 2[1-(3-Methylbutyl)-3-methyl-5-pyrazolyl]amino-2-imidazoline | CC(CCN1N=C(C=C1NC=1NCCN1)C)C | C12H21N5
